US06821967B2
a. tert.butyl 4-{4-[9-(2,2,2-trifluoro-ethylcarbamoyl)-9H-fluoren-9-yl]-butyl}-piperazine-1-carboxylate
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and Boc-piperazine.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | tert.butyl 4-{4-[9-(2,2,2-trifluoro-ethylcarbamoyl)-9H-fluoren-9-yl]-butyl}-piperazine-1-carboxylate | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C29H36F3N3O3
